US04268443
A mixture of 240 gm (1 mol) of the diol prepared according to (c) above, 90 gm (1 mol) of acetaldehyde dimethyl acetal, and 0.2 gm of p-toluene sulfonic acid was refluxed for five hours at 70° C. After the reaction was completed, the reaction mixture was taken up in ether, washed neutral with 2 N sodium hydroxide solution, washed with water, and then dried over anhydrous sodium sulfate. The ether and methanol were distilled off, and then the residue was distilled in the oil-pump vacuum. The 14-methyl-13,15-dioxabicyclo[10.5.0]heptadecane obtained was a colorless liquid with the following characteristics:

reactant | acetaldehyde dimethyl acetal | 1 mol, 90 gm | COC(C)OC | C4H10O2
reactant | p-toluene sulfonic acid | 0.2 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ether | CCOCC | C4H10O
product | 14-methyl-13,15-dioxabicyclo[10.5.0]heptadecane | CC1OC2CCCCCCCCCCC2CCO1 | C16H30O2
